US06087380
a) 1-Methyl-2-[2-(4-cyanophenyl)ethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-[2-(1H-tetrazol-5-yl)ethyl]-amide
Prepared analogously to Example 25c from 3-(4-cyanophenyl)-propionic acid and 3-amino-4-methylamino-benzoic acid-N-phenyl-N-[2-(1H-tetrazol-5-yl)ethyl]-amide. Yield: 67% of theory, IR Mass spectrum (KBr): characteristic bands at 3439.5 cm-1 (N-H); 2235.5 cm-1C≡N); 1631.6 cm-1 (C=O)

reactant | 3-(4-cyanophenyl)-propionic acid | C(#N)C1=CC=C(C=C1)CCC(=O)O | C10H9NO2
reactant | 3-amino-4-methylamino-benzoic acid-N-phenyl-N-[2-(1H-tetrazol-5-yl)ethyl]-amide | C1(=CC=CC=C1)N(C(C1=CC(=C(C=C1)NC)N)=O)CCC1=NN=NN1 | C17H19N7O
reactant | KBr | [K+].[Br-]
product | 1-Methyl-2-[2-(4-cyanophenyl)ethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-[2-(1H-tetrazol-5-yl)ethyl]-amide | Yield: 67% | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CCC2=CC=C(C=C2)C#N)C)C=C1)CCC1=NN=NN1 | C27H24N8O
